### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/FiniteDimensional): add `basisOfPiSpaceOfLinearIndependent`

### PR DESCRIPTION
**Pull request by xroblot**
Add a specialized version of [basisOfLinearIndependentOfCardEqFinrank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FiniteDimensional.html#basisOfLinearIndependentOfCardEqFinrank) for the space `ι → K`. This has two advantages: it makes some proof shorter and it also works in the case `ι` empty. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 1]
```diff
@@ -239,6 +239,26 @@ theorem coe_basisOfLinearIndependentOfCardEqFinrank {ι : Type*} [Nonempty ι] [
     ⇑(basisOfLinearIndependentOfCardEqFinrank lin_ind card_eq) = b :=
   Basis.coe_mk _ _
 
+/-- In a vector space `ι → K`, a linear independent family indedex by `ι` is a basis. -/
+noncomputable def basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι] {b : ι → (ι → K)}
+    (hb : LinearIndependent K b) :
+    Basis ι K (ι → K) := by
+  by_cases hι : Nonempty ι
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:246]: `cases isEmpty_or_nonempty ι`

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean [hunk 2]
```diff
@@ -238,6 +238,26 @@ theorem coe_basisOfLinearIndependentOfCardEqFinrank {ι : Type*} [Nonempty ι] [
...
+theorem coe_basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι] {b : ι → (ι → K)}
+    (hb : LinearIndependent K b) :
+    ⇑(basisOfPiSpaceOfLinearIndependent hb) = b := by
+  by_cases hι : Nonempty ι
+  · rw [basisOfPiSpaceOfLinearIndependent, dif_pos hι]
+    exact coe_basisOfLinearIndependentOfCardEqFinrank hb _
+  · rw [basisOfPiSpaceOfLinearIndependent, dif_neg hι]
+    ext i
+    exact ((not_nonempty_iff.mp hι).false i).elim
+
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:260]:
```suggestion
noncomputable def basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι]
    [Decidable (Nonempty ι)] {b : ι → (ι → K)} (hb : LinearIndependent K b) : Basis ι K (ι → K) :=
  if hι : Nonempty ι then
    basisOfLinearIndependentOfCardEqFinrank hb (Module.finrank_fintype_fun_eq_card K).symm
  else
    have : IsEmpty ι := not_nonempty_iff.mp hι
    Basis.empty _

@[simp]
theorem coe_basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι] [Decidable (Nonempty ι)]
    {b : ι → (ι → K)} (hb : LinearIndependent K b) :
    ⇑(basisOfPiSpaceOfLinearIndependent hb) = b := by
  by_cases hι : Nonempty ι
  · simp [hι, basisOfPiSpaceOfLinearIndependent]
  · rw [basisOfPiSpaceOfLinearIndependent, dif_neg hι]
    ext i
    exact ((not_nonempty_iff.mp hι).false i).elim

```
I think we usually prefer to avoid tactic mode for definitions, since the content of the definition actually matters later on, so it's easier to see what it is from the code.

Comment (xroblot) [reply Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:260]: Thanks! I was trying to write the definition in term mode but I wasn't sure of the best way to do it

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean [hunk 3]
```diff
@@ -238,6 +238,25 @@ theorem coe_basisOfLinearIndependentOfCardEqFinrank {ι : Type*} [Nonempty ι] [
...
+    [Decidable (Nonempty ι)] {b : ι → (ι → K)} (hb : LinearIndependent K b) : Basis ι K (ι → K) :=
+  if hι : Nonempty ι then
+    basisOfLinearIndependentOfCardEqFinrank hb (Module.finrank_fintype_fun_eq_card K).symm
+  else
+    have : IsEmpty ι := not_nonempty_iff.mp hι
+    Basis.empty _
+
+@[simp]
+theorem coe_basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι] [Decidable (Nonempty ι)]
+    {b : ι → (ι → K)} (hb : LinearIndependent K b) :
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:252]:
```suggestion
open Classical in
@[simp]
theorem coe_basisOfPiSpaceOfLinearIndependent {ι : Type*} [Fintype ι]
    {b : ι → (ι → K)} (hb : LinearIndependent K b) :
```
For theorems I think it's better to just use `Classical` since it just removes a typeclass argument. (For defs I think it still matters, since the decidability condition actually shows up in the body of the definition.) Sorry for suggesting that change in the first place!

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+
